US08859591B2
To a −78° C. solution of 4-bromo-2-fluorobenzaldehyde (600 mg, 3 mmol) in tetrahydrofuran (10 mL) was added n-propylmagnesium chloride (2.22 mL, 4.43 mmol) dropwise over 20 minutes. The reaction was warmed to 0° C. and stirred for 2 hours. The reaction was quenched with saturated aqueous ammonium chloride, extracted with ethyl acetate (3×), dried over sodium sulfate, filtered, and concentrated. Purification by preparatory thin layer chromatography gave (+/−)-1-(4-bromo-2-fluorophenyl)butan-1-ol (440 mg, 60%) as a colorless oil. 1H NMR (400 MHz, CDCl3, δ): 7.26-7.30 (m, 1H), 7.21 (d, J=8.0 Hz 1H), 7.13 (d, J=8.0 Hz, 1H), 4.90 (t, J=5.6 Hz, 1H), 1.53-1.79 (m, 2H), 1.30-1.45 (m, 2H), 0.85 (s, J=5.6 Hz, 3H).

reactant | 4-bromo-2-fluorobenzaldehyde | 3 mmol, 600 mg | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | n-propylmagnesium chloride | 4.43 mmol, 2.22 mL | C(CC)[Mg]Cl
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (+/−)-1-(4-bromo-2-fluorophenyl)butan-1-ol | 440 mg, 60% | BrC1=CC(=C(C=C1)C(CCC)O)F | C10H12BrFO
